datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22])[H:11])[H:10],48.4089
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8]>>[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[H:7][O:8],19.37192
[C:0](=[O:1])([H:2])[H:3].[C:4]([H:5])([H:6])[H:7]>>[C:0](=[O:1])[H:3].[H:2][C:4]([H:5])([H:6])[H:7],8.24248
[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:15])[H:16])[H:14])([H:13])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[C:6]([C:7]([H:21])([H:22])[H:23])[H:20])([H:17])[H:18],224.898368
[O:0][H:1].[c:2]1([H:18])[c:3]([H:19])[c:4]2[c:5]([H:20])[c:6]([H:21])[c:7]3[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]4[c:12]([H:25])[c:13]([H:26])[c:14]([c:15]1[H:27])[c:16]2[c:17]34>>[O:0]([H:1])[H:19].[c:2]1([H:18])[c:3][c:4]2[c:5]([H:20])[c:6]([H:21])[c:7]3[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]4[c:12]([H:25])[c:13]([H:26])[c:14]([c:15]1[H:27])[c:16]2[c:17]34,6.0926
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([H:10])[H:11])[H:9])([H:7])[H:8].[C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13],313.624272
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([S:17][H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16]([S:17][H:20])([H:18])[H:19],-1.2552
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([S:16][H:19])([H:17])[H:18]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15]([S:16][H:19])([H:17])[H:18],37.656
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:17])[H:18])([H:15])[H:16])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:8]([H:21])([H:22])[H:23])[C:7]1([H:19])[H:20])[H:11])([H:9])[H:10],97.4454
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[S:11]([C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])[H:20])[H:19]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([S:11][H:19])([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])[H:20],11.2968
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12][O:13][H:14]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])[H:5].[H:4][O:12][O:13][H:14],103.4837088
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25])([H:15])([H:16])[H:17]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:7]([C:6]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25],34.9782
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28][H:29]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:27][O:28][H:29],73.203264
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27])[H:9])([H:7])[H:8],-11.2131
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],-11.8826
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[O:18]([O:19][H:21])[H:20]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:20])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[O:18][O:19][H:21],41.84
